US08067408B2
To a solution of 2-bromo-4-(bromomethyl)benzonitrile (18.0 g, 65.5 mmol) in DMF (60 mL), potassium phthalide (18.2 g, 98.2 mmol) was added, and then the mixture was stirred under reflux for 4 h. The reaction was allowed to cool to room temperature. After removing DMF under reduced pressure, the residue was dissolved in CH2Cl2 (200 mL), and washed with water (50 mL×2). The organic layer was dried over anhydrous sodium sulfate. After evaporation of the solvent, the residue was recrystallized from toluene and EtOH to give the product, 2-bromo-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile (13.5 g, 61%).

reactant | 2-bromo-4-(bromomethyl)benzonitrile | 65.5 mmol, 18.0 g | BrC1=C(C#N)C=CC(=C1)CBr | C8H5Br2N
reactant | potassium phthalide | 98.2 mmol, 18.2 g | C1(=O)OCC2=CC=CC=C12.[K]
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-bromo-4-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile | 13.5 g, 61% | BrC1=C(C#N)C=CC(=C1)CN1C(C2=CC=CC=C2C1=O)=O | C16H9BrN2O2
